US08748462B2
6-(tert-Butyldiphenylsilyloxy)-2,3-dihydroinden-1-one (H1.1)
A mixture of 6-hydroxy-1-indanone (250 g, 1687 mmol) (634549, commercially available from Sigma-Aldrich, St. Louis, Mo., USA), t-butyldiphenylchlorosilane (487 g, 1772 mmol) and imidazole (138 g, 2025 mmol) in degassed DMF (900 mL) was heated at 60° C. for 16 hours. The mixture was then concentrated to remove most of DMF, diluted with ether (3000 mL), filtered, and concentrated to give the initial product H1.1 (674 g, 100% yield) which was used in the next step reaction without further purification. MS ESI (pos.) M/E: 409 (M+Na).

reactant | 6-hydroxy-1-indanone | 1687 mmol, 250 g | OC1=CC=C2CCC(C2=C1)=O | C9H8O2
reactant | t-butyldiphenylchlorosilane | 1772 mmol, 487 g | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | imidazole | 2025 mmol, 138 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 900 mL | CN(C)C=O | C3H7NO
product | 6-(tert-Butyldiphenylsilyloxy)-2,3-dihydroinden-1-one | 100% yield | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2CCC(C2=C1)=O | C25H26O2Si
